US06265575B1
Part A. 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 4-[3-(1-Pyrrolidinyl)propyl]phenyl Ketone
By essentially following the procedure outlined in Example 2, Part C, the title compound was prepared from 2-(4-methoxyphenyl)benzo[b]thiophene (Example 3; Part A) and 4-[3-(1-pyrrolidinyl)propyl]benzoic acid hydrochloride in 33% yield as a viscous oil.

reactant | 2-(4-methoxyphenyl)benzo[b]thiophene | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12OS
reactant | 4-[3-(1-pyrrolidinyl)propyl]benzoic acid hydrochloride | Cl.N1(CCCC1)CCCC1=CC=C(C(=O)O)C=C1
product | 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 4-[3-(1-Pyrrolidinyl)propyl]phenyl Ketone | 33% yield | N1(CCCC1)CCCC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C29H29NO2S
